US08110687B2
A solution of 7-({2-[amino(imino)methyl]pyridin-4-yl}oxy)-N-(3-tert-butylphenyl)-1,2,3,4-tetrahydronaphthalene-2-carboxamide (208 mg, 0.470 mmol), 1,3-dihydroxyacetone dimer (250 mg, 1.4 mmol) and ammonium chloride (151 mg, 2.82 mmol) in ammonium hydroxide (4 mL) in 7M ammonia in MeOH (4 mL) was subjected to MWI at 120° C. for 5 min. The reaction mixture was poured into ice-water and extracted with DCM (10 mL×3). The combined organic solutions were washed with brine and dried over Na2SO4. The crude product was purified by reverse phase HPLC [20% water with acetonitrile (contained 0.1% FA) to 100% acetonitrile (contained 0.1% FA) over 25 mins]. The residue was dissolved in MeOH and 1N HCl in Et2O was added. Concentration gave N-(3-tert-Butylphenyl)-7-({2-[4-(hydroxymethyl)-1H-imidazol-2-yl]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxamide (I-3) as a white solid. 1H NMR (400 MHz, CD3OD): δ 8.64 (d, 1H), 7.67 (m, 1H), 7.55 (s, 1H), 7.43 (dd, 1H), 7.26 (d, 1H), 7.22 (d, 1H), 7.15 (m, 2H), 6.95 (m, 2H), 4.70 (s, 2H), 3.11-2.87 (m, 5H), 2.22 (m, 1H), 1.96 (m, 1H), and 1.31 (s, 9H). LCMS: (FA) ES+ 497.3.

reactant | 7-({2-[amino(imino)methyl]pyridin-4-yl}oxy)-N-(3-tert-butylphenyl)-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 0.470 mmol, 208 mg | NC(C1=NC=CC(=C1)OC1=CC=C2CCC(CC2=C1)C(=O)NC1=CC(=CC=C1)C(C)(C)C)=N | C27H30N4O2
reactant | 1,3-dihydroxyacetone dimer | 1.4 mmol, 250 mg | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | ammonium chloride | 2.82 mmol, 151 mg | [Cl-].[NH4+]
solvent | ammonium hydroxide | 4 mL | [OH-].[NH4+]
solvent | ammonia | 7M | N | H3N
solvent | MeOH | 4 mL | CO | CH4O
product | N-(3-tert-Butylphenyl)-7-({2-[4-(hydroxymethyl)-1H-imidazol-2-yl]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxamide | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)C=1NC=C(N1)CO | C30H32N4O3
